US06727267B2
A flame dried flask was charged with 444 mg sodium hydride (60% wt in oil, 11.1 mmol, 1.1 equiv) under N2. The solid was washed (2×hexanes) followed by the addition of 100 mL anhydrous THF. The solution was cooled to 0° C. followed by the addition of 1 g 5-methyl-2-pyrrolidinone (10.09 mmol, 1.0 equiv). The solution was allowed to stir for 20 min, followed by the addition of 1.96 g 4-fluorobenzenesulfonyl chloride (10.09 mmol, 1.0 equiv) in 10 mL THF. After stirring for an additional 50 min, the solution was diluted with sat. NaHCO3, and the THF was removed under reduced pressure. The solution was then extracted (3×EtOAc), dried (MgSO4), and concentrated under reduced pressure. Purification by flash chromatography (SiO2, 30% EtOAc/hexanes) gave the product 1-(4-fluorobenzenesulfonyl)-5-methyl-2-pyrrolidinone as a white solid (949 mg, 3.69 mmol, 37%).

reactant | 5-methyl-2-pyrrolidinone | 10.09 mmol, 1 g, 1.0 equiv | CC1CCC(N1)=O | C5H9NO
reactant | 4-fluorobenzenesulfonyl chloride | 10.09 mmol, 1.96 g, 1.0 equiv | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-(4-fluorobenzenesulfonyl)-5-methyl-2-pyrrolidinone | 3.69 mmol, 949 mg, 37% | FC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1C)=O | C11H12FNO3S
